US07371751B2
2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-4-carboxylic acid ethyl ester
A mixture of 2.58 g (7.1 mmol) 2-(4-Chloro-phenylamino)-thiazole-4-carboxylic acid ethyl ester; hydrobromide, 2.24 g (10.7 mmol) 2,4-Dichlorobenzoyl chloride and 2.96 ml (21.4 mmol) NEt3 in 30 ml DCM was stirred at room temperature for 24 h. After evaporation of the volatiles the residue was taken up in MeOH and purified with flash column chromatography on silica eluting with a gradient of heptane/ethyl acetate to yield after evaporation of the product fractions 2.81 g (87%) of the title compound. MS (m/e): 457.1 (MH+, 100%)

reactant | 2-(4-Chloro-phenylamino)-thiazole-4-carboxylic acid ethyl ester | 7.1 mmol, 2.58 g | C(C)OC(=O)C=1N=C(SC1)NC1=CC=C(C=C1)Cl | C12H11ClN2O2S
reactant | hydrobromide | Br | BrH
reactant | 2,4-Dichlorobenzoyl chloride | 10.7 mmol, 2.24 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | NEt3 | 21.4 mmol, 2.96 ml | CCN(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)N(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=C(C=C1)Cl | C19H13Cl3N2O3S
